US07399759B2
2-[6-(Methylsulfinyl)-2-pyrazinyl]-4H-1,3-benzothiazine-4-one
2-[6-(Methylthio)-2-pyrazinyl]-4H-1,3-benzothiazine-4-one (0.14 g, 0.50 mmol) was dissolved in chloroform (50 ml), and a solution of 3-chloroperbenzoic acid (ca. 77%, 0.11 g, 0.50 mmol) was added dropwise thereto. The mixture was stirred at room temperature for 1 hr. The solvent was evaporated, and the residue was recrystallized from ethanol to give the titled compound (0.12 g, 79%) as pale yellow crystals.

reactant | 2-[6-(Methylthio)-2-pyrazinyl]-4H-1,3-benzothiazine-4-one | 0.50 mmol, 0.14 g | CSC1=CN=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C13H9N3OS2
reactant | 3-chloroperbenzoic acid | 0.50 mmol, 0.11 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[6-(Methylsulfinyl)-2-pyrazinyl]-4H-1,3-benzothiazine-4-one | 0.12 g, 79% | CS(=O)C1=CN=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C13H9N3O2S2
